US07176310B1
H. [4-[2-(4-Azidobenzoylamino)ethylamino]-5-(4-fluorophenylcarbamoyl)pyrimidin-2-ylsulfanyl]acetic acid
1 M NaOH (0.5 mL, 0.5 mmol) was added to a solution of [4-[2-(4-Azido-benzoylamino)-ethylamino]-5-(4-fluorophenylcarbamoyl)pyrimidin-2-ylsulfanyl]acetic acid ethyl ester (8 mg, 0.015 mmol) in THF (0.5 mL) at ambient temperature. The reaction was stirred for 1 h, then acidified with 1 N HCl to pH 3. The reaction mixture was concentrated by rotary evaporation, and the resulting solid was filtered, washed with water and dried to yield the titled product (4 mg, 53%) as a white solid. 1H NMR: (d6-DMSO) δ 10.22 (s, 1H), 8.63 (m, 1H), 8.56 (s, 1H), 7.82 (d, 2H), 7.60 (m, 2H), 7.13 (m, 3H), 3.89 (s, 2H), 3.62 (m, 2H), 3.34 (m, 2H); HPLC: Rt=4.13 min; MS (ESI): m/z 509.07 (M−H)−.

reactant | NaOH | 0.5 mmol, 1 M, 0.5 mL | [OH-].[Na+]
reactant | [4-[2-(4-Azido-benzoylamino)-ethylamino]-5-(4-fluorophenylcarbamoyl)pyrimidin-2-ylsulfanyl]acetic acid ethyl ester | 0.015 mmol, 8 mg | C(C)OC(CSC1=NC=C(C(=N1)NCCNC(C1=CC=C(C=C1)N=[N+]=[N-])=O)C(NC1=CC=C(C=C1)F)=O)=O | C24H23FN8O4S
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | [4-[2-(4-Azidobenzoylamino)ethylamino]-5-(4-fluorophenylcarbamoyl)pyrimidin-2-ylsulfanyl]acetic acid | 4 mg, 53% | N(=[N+]=[N-])C1=CC=C(C(=O)NCCNC2=NC(=NC=C2C(NC2=CC=C(C=C2)F)=O)SCC(=O)O)C=C1 | C22H19FN8O4S
